US06541473B2
(±)-{4-[2,4-bis(Methoxymethoxy)phenyl]cyclohexylidene}acetonitrile
To a round bottomed flask equipped was added sodium hydride (40 mg, 60% dispersion in mineral oil) and 1, 2-dimethoxyethane (10 ml). Diethyl cyanomethylphosphonate (102 μl, 0.95 mmol) was added and the reaction mixture allowed to warm to room temperature. 4-[(2,4-Bis(methoxymethoxy)phenyl)]cyclohexanone (200 mg) was added as a solution in 1,2-dimethoxyethane (10 ml) and the reaction mixture stirred for 17 hr at room temperature. The reaction mixture was poured into a separating funnel containing water (50 ml) and diethyl ether (50 ml). The layers were separated and the aqueous phase extracted with diethyl ether (2×20 ml). The combined organic layers were washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo, to give an oil. Purification via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:2, v/v) afforded the title compound (141 mg, 66%) as a pale yellow oil. δH (CD3OD) 1.57-1.70 (2H, m), 2.02-2.25 (2H, m), 2.34-2.49 (2H, m), 2.60 (1H, m), 3.03 (1H, m), 3.24 (1H, m), 3.47 (3H, s), 3.52 (3H, s), 5.17 (2H, s), 5.23(2H, s), 5.33 (1H, s), 6.68 (1H, dd), 6.83 (1H, d), 7.09 (1H, d).

reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | Diethyl cyanomethylphosphonate | 0.95 mmol, 102 μl | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-[(2,4-Bis(methoxymethoxy)phenyl)]cyclohexanone | 200 mg | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=O | C16H22O5
reactant | water | 50 ml | O | H2O
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1, 2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (±)-{4-[2,4-bis(Methoxymethoxy)phenyl]cyclohexylidene}acetonitrile | 141 mg, 66% | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=CC#N | C18H23NO4
